US07923450B2
a) Methyl 9-[1-dimethylamino-methylidene]-8-oxo-1,4-dioxa-spiro[4.5]decane-7-carboxylate
Methyl 8-oxo-1,4-dioxa-spiro[4.5]decane-7-carboxylate (64 mg, 0.3 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (80 mg) as a red oil which was used directly in the next step. MS ISP (m/e): 270.3 [(M+H)+].

reactant | Methyl 8-oxo-1,4-dioxa-spiro[4.5]decane-7-carboxylate | 0.3 mmol, 64 mg | O=C1C(CC2(OCCO2)CC1)C(=O)OC | C10H14O5
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | Methyl 9-[1-dimethylamino-methylidene]-8-oxo-1,4-dioxa-spiro[4.5]decane-7-carboxylate | 80 mg | CN(C=C1C(C(CC2(OCCO2)C1)C(=O)OC)=O)C | C13H19NO5
